US06677340B2
Step 6D {2-[3-(2-Fluoro-3-methoxy-phenyl)-5-(2-fluoro-6-trifluoromethyl-benzyl)-2,4,6-trioxo-[1,3,5]triazinan-1-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester
{2-[3-(2-Fluoro-3-methoxy-phenyl)-2,4,6-trioxo-[1,3,5]triazinan-1-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (370 mg) was dissolved in 7 mL of anhydrous DMF. To this solution was added K2CO3 (2.0 eq, 226 mg) and 2-fluoro-6-(trifluoromethyl)benzyl bromide (1.0 eq, 222 mg). The reaction was complete by LC/MS after 14 hours. The DMF was removed in vacuo. The residue was partitioned between EtOAc and H2O. The EtOAc layer was collected and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified via flash column chromatography and eluted with 30% EtOAc/hexanes to yield 399 mg (76%). Rf=0.36 in 30% EtOAc/hexanes. 1H NMR (CDCl3) δ: 7.51 (d,1H), 7.39 (m,1H), 7.27 (d,1H), 7.15 (dt,1H), 7.06 (dt,1H), 6.88 (dt,1H), 5.42 (q,2H), 5.15 (bs,1H), 4.14 (q,2H), 3.9 (s,3H), 1.4 (s,9H), 1.39 (d,6H).

reactant | {2-[3-(2-Fluoro-3-methoxy-phenyl)-2,4,6-trioxo-[1,3,5]triazinan-1-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | 370 mg | C(C)(C)(C)OC(NC(CN1C(N(C(NC1=O)=O)C1=C(C(=CC=C1)OC)F)=O)(C)C)=O | C19H25FN4O6
reactant | K2CO3 | 226 mg, 2.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-6-(trifluoromethyl)benzyl bromide | 222 mg, 1.0 eq | FC1=C(CBr)C(=CC=C1)C(F)(F)F | C8H5BrF4
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | {2-[3-(2-Fluoro-3-methoxy-phenyl)-5-(2-fluoro-6-trifluoromethyl-benzyl)-2,4,6-trioxo-[1,3,5]triazinan-1-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CN1C(N(C(N(C1=O)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=C(C(=CC=C1)OC)F)=O)(C)C)=O | C27H29F5N4O6
